US06531474B1
2-Phenylaminopropionic Acid (119)
A mixture of alanine (356 mg, 4.0 mmol), iodobenzene (816 mg, 4.0 mmol), trans-dichlorobis(tri-o-tolylphosphine) palladium (II) {Pd[P(o-Tol)3]2Cl2} (160 mg, 0.2 mmol), copper (I) iodide (40 mg, 0.2 mmol), K2CO3 (552 mg, 4.0 mmol), benzyltriethylammonium chloride (160 mg, 0.8 mmol), triethylamine (1.6 mL) and water (0.8 mL) in DMF (8 mL) was stirred under nitrogen atmosphere at 100° C. for 20 hours. The mixture was cooled to room temperature, diluted with ethyl acetate (50 mL) and water (50 mL), acidified with 6N HCl to the pH=2 to 3. The aqueous layer was extracted with ethyl acetate (50 mL×4). The combined organic layers were washed with water, brine, dried over anhydrous Na2SO4, filtered and evaporated in vacuo to give a red oil. Flash chromatography using hexane/ethyl acetate/acetic acid (95/5/0.5 to 80/20/0.5) to afford 300 mg (45% yield) of the title compound as a pink solid. 1H-NMR (500 MHz, CDCl3/CD3OD=0.5 ml/3 drops): δ 1.45 (d, 3H), 4.02-4.15 (m, H), 6.57-6.70 (m, 3H), 7.11-7.25 (m, 2H); Analytical HPLC: 6.10 min. LC-MS: m/e=166 (M+H+).

reactant | alanine | 4.0 mmol, 356 mg | N[C@@H](C)C(=O)O | C3H7NO2
reactant | iodobenzene | 4.0 mmol, 816 mg | IC1=CC=CC=C1 | C6H5I
reactant | K2CO3 | 4.0 mmol, 552 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 6N | Cl | ClH
catalyst | benzyltriethylammonium chloride | 0.8 mmol, 160 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | copper (I) iodide | 0.2 mmol, 40 mg | [Cu]I
solvent | water | 0.8 mL | O | H2O
solvent | hexane ethyl acetate acetic acid | CCCCCC.C(C)(=O)OCC.C(C)(=O)O
solvent | triethylamine | 1.6 mL | C(C)N(CC)CC | C6H15N
product | 2-Phenylaminopropionic Acid | 300 mg, 45% yield | C1(=CC=CC=C1)NC(C(=O)O)C | C9H11NO2
